US05082947
Ethyl p-chlorophenylacetate
To p-chlorophenylacetic acid (85.30 g, 0.50 mole) was added ethanol (92 g, 2.0 mole), benzene (78.11 g) and conc. sulfuric acid (2.5 g, 0.025 mole) and the azeotropic dehydration reaction was performed for 6 hours. After completion of the reaction, water (200 ml) was added to the reaction mixture, while it was cool and the solution was extracted with diethyl ether. The ether layer was dried with anhydrous sodium sulfate, diethyl ether was distilled off under reduced pressure and the resulting residue was distilled under reduced pressure to give 96.30 g (96.9%) of the title compound as a colorless liquid, b.p. 105°-106° C./2.5 mmHg (lit. 130° C./13 mmHg).

reactant | p-chlorophenylacetic acid | 0.50 mole, 85.30 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | ethanol | 2.0 mole, 92 g | C(C)O | C2H6O
reactant | benzene | 78.11 g | C1=CC=CC=C1 | C6H6
catalyst | sulfuric acid | 0.025 mole, 2.5 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 ml | O | H2O
product | Ethyl p-chlorophenylacetate | 96.30 g, 96.9% | ClC1=CC=C(C=C1)CC(=O)OCC | C10H11ClO2
